US08357693B2
A suspension of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (80 mg, 0.16 mmol), PyBOP® (46 mg, 0.088 mmol), DIEA (28 μl, 0.16 mmol) in dry CH2Cl2:DMF (2:0.1 mL) was stirred at RT for 15 minutes. To this solution of activated acid was added morpholine (8.7 mg, 0.10 mmol). After 30 minutes, 1.0 equivalent of DIEA and 0.55 equivalent of PyBOP® were added. After stirring the solution for 15 minutes, 0.65 equivalents of morpholine were added and the mixture was stirred for an additional 30 minutes. The solvent was removed in vacuo and the crude product was purified using prep HPLC (20-45—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-1-morpholinoethanone. (13 mg, 0.027 mmol, 17%)

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.16 mmol, 80 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.16 mmol, 28 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | morpholine | 0.10 mmol, 8.7 mg | N1CCOCC1 | C4H9NO
reactant | DIEA | 1.0 equivalent | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.55 equivalent | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | morpholine | 0.65 equivalents | N1CCOCC1 | C4H9NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-1-morpholinoethanone | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)N2CCOCC2)C=CC1 | C27H24N6O3
